US06294580B1
3-(4-Hydroxyphenyl)-2-(2-(4-biphenylcarbonyl)-phenylamino)-propionic acid methyl ester
The title compound (830 mg) was prepared from 1.83 g (5.7 mmol) O-benzyl-L-tyrosine methyl ester and 1.59 g (5.7 mmol) of 2-(4-phenylbenzoyl)cyclohexanone (Child, R. G. et.al. J. Pharm Sci 1977, 66(4), 466-76) according to the method of Intermediate 23 followed by purification via silica gel chromatography eluting with 1/9 EtOAc/hexanes: Low resolution MS (Cl) m/e 452 (MH+).

reactant | O-benzyl-L-tyrosine methyl ester | 5.7 mmol, 1.83 g | COC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H19NO3
reactant | 2-(4-phenylbenzoyl)cyclohexanone | 5.7 mmol, 1.59 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C2C(CCCC2)=O)C=C1 | C19H18O2
product | 3-(4-Hydroxyphenyl)-2-(2-(4-biphenylcarbonyl)-phenylamino)-propionic acid methyl ester | 830 mg | COC(C(CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H25NO4
